US08115005B2
1-[2-(4-Pyrazol-1-yl-phenoxy)-ethyl]-piperidine:
The title compound was prepared from 4-Pyrazol-1-yl-phenol (0.1 g, 0.62 mmol) and 1-(2-chloroethyl)piperidine hydrochloride (0.23 g, 1.25 mmol) using the general procedure C with a yield of 47% (80 mg); 1H NMR (400 MHz, CDCl3) 7.82 (dd, J=2.4, 0.4 Hz, 1H), 7.69 (br, dd, J=1.6, 0.4 Hz, 1H), 7.57 (d, J=9.2 Hz, 2H), 6.97 (d, J=9.2 Hz, 2H), 6.43 (dd, J=2.4, 2 Hz, 1H), 4.14 (t, J=12, 6 Hz, 2H), 2.79 (t, J=12, 6 Hz, 2H), 2.52 (br, 4H), 1.61-1.47 (m, 6H);

reactant | 4-Pyrazol-1-yl-phenol | 0.62 mmol, 0.1 g | N1(N=CC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 1.25 mmol, 0.23 g | Cl.ClCCN1CCCCC1
product | 1-[2-(4-Pyrazol-1-yl-phenoxy)-ethyl]-piperidine | yield of 47% | N1(N=CC=C1)C1=CC=C(OCCN2CCCCC2)C=C1 | C16H21N3O
